data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1986,2206,[CH3:12][NH:13][C:14](=[O:15])[C:16](=[NH+:17][CH-:18][C:19](=[O:20])[O:21][CH3:22])[C:23](=[O:24])[NH:25][CH3:26].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Br:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([Br:6])([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[CH:18]([C:19](=[O:20])[O:21][CH3:22])[NH:17][C:16]2([C:14]([NH:13][CH3:12])=[O:15])[C:23](=[O:24])[NH:25][CH3:26],water,298.15,16.79121365949125,-24.059647652976192
486,532,[CH3:16][C-:17]([CH3:18])[O+:19]=[CH:20][C:21]#[N:22].[N:1]#[C:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[CH:11]2[CH2:12][CH2:13][CH:14]1[CH2:15]2>>[N:1]#[C:2][C:3]12[C:4]([c:5]3[cH:6][cH:7][cH:8][cH:9][cH:10]3)([CH:11]3[CH2:12][CH2:13][CH:14]1[CH2:15]3)[CH:20]([C:21]#[N:22])[O:19][C:17]2([CH3:16])[CH3:18],water,298.15,10.60413375615834,-39.02366553219379
799,866,[CH3:10][C:11](=[O:12])[CH-:13][N+:14]([CH3:15])=[C:16]([C:17]#[N:18])[C:19]#[N:20].[F:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[F:1][C:2]12[C:3]([Br:4])([CH:5]3[CH:6]=[CH:7][CH:8]1[O:9]3)[CH:13]([C:11]([CH3:10])=[O:12])[N:14]([CH3:15])[C:16]2([C:17]#[N:18])[C:19]#[N:20],water,298.15,20.16335157498756,-30.427326772334524
3858,4414,[CH3:10][NH:11][C:12](=[O:13])[c:14]1[nH+:15][c-:16]([CH3:17])[c:18](=[O:19])[o:20]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]2([C:12]([NH:11][CH3:10])=[O:13])[NH:15][C:16]1([CH3:17])[C:18](=[O:19])[O:20]2,water,298.15,23.71632436542836,0.0170969148556623
4497,5130,[CH3:10][C:11](=[O:12])[C-:13]([C:14]#[N:15])[O+:16]=[C:17]([CH3:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:17]([CH3:18])([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[O:16][C:13]1([C:11]([CH3:10])=[O:12])[C:14]#[N:15],water,298.15,21.537599160205627,-24.23077310088992
722,783,[CH3:1][NH:2][C:3](=[O:4])[C:5]#[C:6][F:7].[CH3:8][NH:9][C:10](=[O:11])[C-:12]([N+:13]#[C:14][C:15]([CH3:16])=[O:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[C:12]([C:10]([NH:9][CH3:8])=[O:11])([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[N:13]=[C:14]1[C:15]([CH3:16])=[O:17],water,298.15,15.152079730028412,-74.55356009332264
4183,4786,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][O:8][C:9](=[O:10])[C:11](=[NH+:12][C-:13]([CH3:14])[C:15]([CH3:16])=[O:17])[C:18](=[O:19])[O:20][CH3:21]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:13]([CH3:14])([C:15]([CH3:16])=[O:17])[NH:12][C:11]1([C:9]([O:8][CH3:7])=[O:10])[C:18](=[O:19])[O:20][CH3:21],water,298.15,31.14573084900515,-4.542671166751767
1114,1212,[CH3:11][O:12][C:13](=[O:14])[C:15](=[O+:16][C-:17]([CH3:18])[C:19]#[N:20])[C:21](=[O:22])[O:23][CH3:24].[N:1]#[C:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[N:1]#[C:2][C:3]12[C:4]([Cl:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[C:17]([CH3:18])([C:19]#[N:20])[O:16][C:15]2([C:13]([O:12][CH3:11])=[O:14])[C:21](=[O:22])[O:23][CH3:24],water,298.15,10.866505540940055,-48.75310189211354
3148,3550,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][N-:8][N+:9]([CH3:10])=[CH:11][C:12](=[O:13])[O:14][CH3:15]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[N:8]([CH3:7])[N:9]([CH3:10])[CH:11]1[C:12](=[O:13])[O:14][CH3:15],water,298.15,20.555000092753406,-7.098947548740807
3342,3791,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][O:6][C:7](=[O:8])[C:9]#[N+:10][C-:11]([C:12]#[N:13])[C:14](=[O:15])[O:16][CH3:17]>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[C:11]([C:12]#[N:13])([C:14](=[O:15])[O:16][CH3:17])[N:10]=[C:9]1[C:7]([O:6][CH3:5])=[O:8],water,298.15,13.98910939651614,-40.39235635006885
5142,5840,[CH3:10][C:11](=[O:12])[C:13](=[O+:14][C-:15]([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[C:28]([CH3:29])=[O:30].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:13]([C:11]([CH3:10])=[O:12])([C:28]([CH3:29])=[O:30])[O:14][C:15]1([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,33.422440218013136,-14.834167520392596
2695,2994,[CH3:11][NH:12][C:13](=[O:14])[C:15]([C:16]([CH3:17])=[O:18])=[N+:19]([CH3:20])[C-:21]([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1.[Cl:1][C:2]1([Br:3])[C:4]#[C:5][CH2:6][CH2:7][CH2:8][CH2:9][CH2:10]1>>[Cl:1][C:2]1([Br:3])[C:4]2=[C:5]([CH2:6][CH2:7][CH2:8][CH2:9][CH2:10]1)[C:15]([C:13]([NH:12][CH3:11])=[O:14])([C:16]([CH3:17])=[O:18])[N:19]([CH3:20])[C:21]2([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1,water,298.15,36.98847136840687,-28.147341596671573
